US05721347
A solution of 4.05 g. (0.0126 mole) of ethyl 5-(ρ-chlorobenzoyl)-α-methyl-1-methylpyrrole-2-acetate, 15 ml. of 1N sodium hydroxide solution and 2 ml. of ethanol is refluxed for 30 minutes. The solution is cooled, diluted with water and filtered. The filtrate is acidified with dilute hydrochloric acid. The precipitates solid is collected and recrystallized from methanol-water to give a white crystalline solid, 5-(ρ-chlorobenzoyl)-α-methyl-1-methylpyrrole-2-acetic acid, M.P. 135°-136° C.

reactant | ethyl 5-(ρ-chlorobenzoyl)-α-methyl-1-methylpyrrole-2-acetate | 0.0126 mole | ClC1=CC=C(C(=O)C2=CC=C(N2C)C(C(=O)OCC)C)C=C1 | C17H18ClNO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-(ρ-chlorobenzoyl)-α-methyl-1-methylpyrrole-2-acetic acid | ClC1=CC=C(C(=O)C2=CC=C(N2C)C(C(=O)O)C)C=C1 | C15H14ClNO3
